US07410972B2
5-Chloro-N-(5,6-dimethyl-3-methoxy-2-pyrazinyl)-2-thiophenesulphonamide
Prepared by the method of Example 1 using 3-methoxy-5,6-dimethyl-2-pyrazinamine and 5-chloro-2-thienylsulphonyl chloride.

reactant | 3-methoxy-5,6-dimethyl-2-pyrazinamine | COC=1C(=NC(=C(N1)C)C)N | C7H11N3O
reactant | 5-chloro-2-thienylsulphonyl chloride | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
product | 5-Chloro-N-(5,6-dimethyl-3-methoxy-2-pyrazinyl)-2-thiophenesulphonamide | ClC1=CC=C(S1)S(=O)(=O)NC1=NC(=C(N=C1OC)C)C | C11H12ClN3O3S2
